US09260439B2
Step 4: Preparation of (3R)-3-[4-(2-aminopyrimidin-5-yl)-2-(morpholin-4-yl)-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-N,3-dimethylpyrrolidine-1-carboxamide
To a solution of tert-butyl(3R)-3-[4-(2-aminopyrimidin-5-yl)-2-(morpholin-4-yl)-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-3-methylpyrrolidine-1-carboxylate (150 mg, 0.311 mmol) in MeOH (1.5 mL) was added 4 N HCl in dioxane (1.5 mL, 6 mmol), and the mixture was stirred at room temperature for 45 min. The mixture was diluted with toluene and concentrated under reduced pressure. The residue was triturated again with toluene to give a yellow foam. To a solution of this residue in DMSO (3 mL) was added DIPEA (0.25 mL, 1.43 mmol) and methyl isocyanate (0.021 mL, 0.342 mmol), and the mixture was stirred for 45 min. Another portion of methylisocyanate (0.005 mL) was added and the mixture was stirred at room temperature for 18 h. The mixture was dropped into 50% saturated NaHCO3 (30 mL) and extracted with EtOAc (3×). The combined organic layers were dried over MgSO4 and concentrated under reduced pressure. The residue was purified by silica gel chromatography using a gradient of 0-10% (MeOH with 10% NH4OH)/(EtOAC/DCM, 1:1) as eluent. The desired fractions were concentrated to a minimum volume and the residue was taken up in MeOH/water and lyophilized to give 93 mg (68%) of the title compound as a white solid. 1H NMR (600 MHz, 80° C., DMSO-d6) δ 8.72 (s, 2 H), 6.59 (br s, 2 H), 5.72 (br d, J=3.7 Hz, 1 H), 3.75 (d, J=10.6 Hz, 1 H), 3.71-3.50 (m, 11 H), 3.41-3.24 (m, 2 H), 3.08 (t, J=8.2 Hz, 2H), 2.60 (d, J=4.5 Hz, 3 H), 2.48-2.43 (m, 1H, partially overlapped with DMSO), 2.14-2.05 (m, 1 H), 1.34 (s, 3 H). m/z (APCI+) for C21H29N9O2 440.2 (M+H)+.

reactant | tert-butyl(3R)-3-[4-(2-aminopyrimidin-5-yl)-2-(morpholin-4-yl)-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-3-methylpyrrolidine-1-carboxylate | 0.311 mmol, 150 mg | NC1=NC=C(C=N1)C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)[C@]2(CN(CC2)C(=O)OC(C)(C)C)C | C24H34N8O3
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 6 mmol, 1.5 mL | O1CCOCC1 | C4H8O2
reactant | DIPEA | 1.43 mmol, 0.25 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl isocyanate | 0.342 mmol, 0.021 mL | CN=C=O | C2H3NO
reactant | methylisocyanate | 0.005 mL | CN=C=O | C2H3NO
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | MeOH | 1.5 mL | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | (3R)-3-[4-(2-aminopyrimidin-5-yl)-2-(morpholin-4-yl)-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-N,3-dimethylpyrrolidine-1-carboxamide | 93 mg, 68% | NC1=NC=C(C=N1)C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)[C@]2(CN(CC2)C(=O)NC)C | C21H29N9O2
